US05965559
Using an analogous procedure to that described in the second paragraph of the portion of Example 2 which is concerned with the preparation of starting materials, 1-(4-pyridyl)piperidine-4-carbonyl chloride was reacted with 1-amino-2-(tert-butoxycarbonylamino)-3-phenylpropane to give N-[2-(tert-butoxycarbonylamino)-3-phenylpropyl]-1-(4-pyridyl)piperidine-4-carboxamide in 39% yield.

reactant | 1-(4-pyridyl)piperidine-4-carbonyl chloride | N1=CC=C(C=C1)N1CCC(CC1)C(=O)Cl | C11H13ClN2O
reactant | 1-amino-2-(tert-butoxycarbonylamino)-3-phenylpropane | NCC(CC1=CC=CC=C1)NC(=O)OC(C)(C)C | C14H22N2O2
product | N-[2-(tert-butoxycarbonylamino)-3-phenylpropyl]-1-(4-pyridyl)piperidine-4-carboxamide | 39% yield | C(C)(C)(C)OC(=O)NC(CNC(=O)C1CCN(CC1)C1=CC=NC=C1)CC1=CC=CC=C1 | C25H34N4O3
